US07750029B2
To a mixture of 5.90 kg of 4-nitrophenylethylamine monohydrochloride, 4.43 kg of (R)-mandelic acid, 2.94 kg of triethylamine and 22 liters of N, N-dimethylformamide were added 3.93 kg of hydroxybenztriazole and 5.58 kg of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide monohydrochloride (EDC) followed by stirring at about room temperature for 2 hours. EDC (0.28 kg) was further added thereto and the mixture was stirred at about room temperature throughout one night. The reaction solution was diluted with 110 liters of water and extracted with ethyl acetate (60 liters, 30 liters). The organic layer was successively washed with 60 liters of 1M aqueous hydrochloric acid, 60 liters of 20% aqueous solution of potassium carbonate and water (60 liters, 60 liters) and concentrated in vacuo at 10 to 19° C. The residue was dissolved in 35 liters of toluene with heating at 87° C., cooled and stirred at 20° C. throughout one night. The resulting crystals were filtered and washed with 10 liters of toluene. This was dried in vacuo to give 7.66 kg of (R)-2-hydroxy-N-[2-(4-nitrophenyl)ethyl]-2-phenylacetamide as light yellow crystals.

reactant | 4-nitrophenylethylamine monohydrochloride | 5.90 kg | Cl.[N+](=O)([O-])C1=CC=C(C=C1)CCN
reactant | (R)-mandelic acid | 4.43 kg | C([C@H](O)C1=CC=CC=C1)(=O)O | C8H8O3
reactant | hydroxybenztriazole | 3.93 kg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide monohydrochloride | 5.58 kg | Cl.CN(CCCN=C=NCC)C
solvent | water | 110 liters | O | H2O
catalyst | EDC | 0.28 kg
solvent | N, N-dimethylformamide | 22 liters | CN(C=O)C | C3H7NO
solvent | triethylamine | 2.94 kg | C(C)N(CC)CC | C6H15N
product | (R)-2-hydroxy-N-[2-(4-nitrophenyl)ethyl]-2-phenylacetamide | 7.66 kg | O[C@@H](C(=O)NCCC1=CC=C(C=C1)[N+](=O)[O-])C1=CC=CC=C1 | C16H16N2O4
